US08022205B2
To tetrahydrofuran solution (2 ml) of bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine (100 mg, 0.185 mmol), 60% sodium hydride (222 mg, 5.56 mmol) was added, followed by stirring at room temperature for 30 minutes. To this, mesyl chloride (430 μl, 5.56 mmol) was added, followed by refluxing for 6 hours. This was cooled to room temperature, followed by addition of saturated aqueous ammonium chloride solution, and passed through Whatman tube. The resulting organic phase was concentrated under reduced pressure, followed by purification by silica gel column chromatography (dichloromethane/methanol=200/1), to obtain [5-(7-methanesulfonyl-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-bis-(4-methoxy-benzyl)-amine (80.2 mg, Yield 70%). To this, trifluoroacetic acid (1 ml) and concentrated sulfuric acid (2 drops) were added, followed by stirring at 40° C. for 3 hours. After concentration of trifluoroacetic acid under reduced pressure, water was added, followed by neutralization with 1M aqueous sodium hydroxide solution. The solid was filtered, followed by purification by silica gel column chromatography (dichloromethane/2M ammonia methanol=30/1), to obtain the desired compound as a yellow solid (14.9 mg, Yield 31%).

reactant | bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine | 0.185 mmol, 100 mg | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)NCC3)CC3=CC=C(C=C3)OC)C=C1 | C30H33N7O3
reactant | sodium hydride | 5.56 mmol, 222 mg | [H-].[Na+]
reactant | mesyl chloride | 5.56 mmol, 430 μl | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | [5-(7-methanesulfonyl-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-bis-(4-methoxy-benzyl)-amine | 80.2 mg, Yield 70% | CS(=O)(=O)N1CCC2=C1N=C(N=C2C=2C=NC(=NC2)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)N2CCOCC2 | C31H35N7O5S
